T1 ( net322 net322 0 0)  nfet  L=6.06E-6 W=0.58E-6
T2 ( net289 net322 0 0)  nfet  L=6.06E-6 W=0.58E-6
R3 ( net289 net336)  R=4.3E1
C4 (net160 net254) C=5.1E-9
T5 (net355 net89 net89 0) pfet L=5.25E-6 W=9.26E-6
R6 ( net342 net180)  R=0.7E4
T7 ( net180 net20 0 0)  nfet  L=7.76E-6 W=5.65E-6
T8 ( net192 net20 0 0)  nfet  L=7.76E-6 W=5.65E-6
T9 ( vdd! net180 net20 0)  nfet  L=7.76E-6 W=5.65E-6
C10 (net310 net45) C=2.1E-8
T11 ( net175 net175 0 0)  nfet  L=6.95E-6 W=2.75E-6
T12 ( net220 net175 0 0)  nfet  L=6.95E-6 W=2.75E-6
R13 ( net220 vdd!)  R=6.7E2
C14 (net334 net310) C=8.1E-11
T15 ( net187 net187 vdd! vdd!)  pfet  L=4.01E-6 W=4.06E-6
T16 ( net120 net187 vdd! vdd!)  pfet  L=4.01E-6 W=4.06E-6
R17 ( net120 0)  R=1.3E4
R18 (net334 net99) R=1.7E0
R19 ( net237 net266)  R=5.8E6
T20 ( net266 net17 vdd! vdd!)  pfet  L=0.81E-6 W=1.34E-6
T21 ( net111 net17 vdd! vdd!)  pfet  L=0.81E-6 W=1.34E-6
T22 ( net259 net266 net111 vdd!)  pfet  L=0.81E-6 W=1.34E-6
T23 (net175 net106 net106 0) nfet L=7.93E-6 W=4.41E-6
T24 ( net66 net66 0 0)  nfet  L=5.57E-6 W=9.05E-6
T25 ( net22 net66 0 0)  nfet  L=5.57E-6 W=9.05E-6
R26 ( net22 net361)  R=6.9E5
T27 (net265 net137 net137 0) nfet L=9.03E-6 W=0.19E-6
R28 (net282 vdd!) R=2.5E4
R29 (net191 net6) R=2.3E5
R30 ( net168 net138)  R=1.8E1
T31 ( net138 net288 0 0)  nfet  L=0.57E-6 W=5.52E-6
T32 ( net254 net288 0 0)  nfet  L=0.57E-6 W=5.52E-6
T33 ( vdd! net138 net288 0)  nfet  L=0.57E-6 W=5.52E-6
C34 (net325 net173) C=9.9E-6
T35 (net10 net209 net209 0) pfet L=3.70E-6 W=2.83E-6
R36 ( net34 net45)  R=7.5E5
T37 ( net45 net45 vdd! vdd!)  pfet  L=9.90E-6 W=8.35E-6
T38 ( net258 net45 vdd! vdd!)  pfet  L=9.90E-6 W=8.35E-6
C39 (net292 net3) C=6.4E-5
R40 ( net305 net8)  R=3.6E0
T41 ( net8 net8 vdd! vdd!)  pfet  L=4.44E-6 W=4.12E-6
T42 ( net348 net8 vdd! vdd!)  pfet  L=4.44E-6 W=4.12E-6
C43 (net272 net76) C=6.7E-9
R44 ( 0 net224)  R=7.6E2
T45 ( net224 net224 net94 vdd!)  pfet  L=9.23E-6 W=3.69E-6
T46 ( net94 net227 vdd! vdd!)  pfet  L=9.23E-6 W=3.69E-6
T47 ( net227 net227 vdd! vdd!)  pfet  L=9.23E-6 W=3.69E-6
T48 ( net188 net224 net227 vdd!)  pfet  L=9.23E-6 W=3.69E-6
R49 (net178 net57) R=2.7E0
T50 (net135 net196 net196 0) nfet L=9.42E-6 W=2.75E-6
C51 (vdd! net114) C=6.3E-6
R52 ( net53 net44)  R=2.0E1
T53 ( net44 net46 vdd! vdd!)  pfet  L=1.63E-6 W=6.98E-6
T54 ( net239 net46 vdd! vdd!)  pfet  L=1.63E-6 W=6.98E-6
T55 ( 0 net44 net46 vdd!)  pfet  L=1.63E-6 W=6.98E-6
T56 (net147 net99 net99 0) pfet L=5.45E-6 W=5.29E-6
R57 ( net324 net304)  R=2.9E6
T58 ( net304 net304 net140 vdd!)  pfet  L=2.42E-6 W=4.30E-6
T59 ( net140 net189 vdd! vdd!)  pfet  L=2.42E-6 W=4.30E-6
T60 ( net189 net189 vdd! vdd!)  pfet  L=2.42E-6 W=4.30E-6
T61 ( net279 net304 net189 vdd!)  pfet  L=2.42E-6 W=4.30E-6
T62 (net268 net84 net84 0) nfet L=8.78E-6 W=5.09E-6
T63 (net278 vdd! vdd! 0) nfet L=8.67E-6 W=3.34E-6
T64 ( net129 net129 vdd! vdd!)  pfet  L=9.33E-6 W=3.43E-6
T65 ( net112 net129 vdd! vdd!)  pfet  L=9.33E-6 W=3.43E-6
R66 ( net112 net156)  R=1.3E1
R67 (net221 net333) R=8.9E4
R68 (net35 0) R=5.7E2
C69 (net76 net359) C=2.1E-9
R70 (net190 net110) R=2.7E0
C71 (net335 net37) C=3.0E-6
T72 (net132 net301 net301 0) nfet L=6.12E-6 W=7.79E-6
T73 (net117 net141 net141 0) pfet L=2.37E-6 W=7.20E-6
R74 (net170 net316) R=9.3E4
T75 (net58 net190 net190 0) nfet L=0.25E-6 W=5.82E-6
R76 ( net217 net24)  R=7.3E6
T77 ( net24 net50 vdd! vdd!)  pfet  L=3.23E-6 W=7.75E-6
T78 ( net186 net50 vdd! vdd!)  pfet  L=3.23E-6 W=7.75E-6
T79 ( 0 net24 net50 vdd!)  pfet  L=3.23E-6 W=7.75E-6
R80 (0 net181) R=1.3E2
R81 (net110 0) R=4.0E3
T82 (0 net107 net107 0) pfet L=3.85E-6 W=1.88E-6
T83 ( net209 net209 0 0)  nfet  L=7.71E-6 W=1.59E-6
T84 ( net165 net209 0 0)  nfet  L=7.71E-6 W=1.59E-6
R85 ( net165 net210)  R=5.2E4
C86 (net91 net128) C=0.6E-14
T87 ( net335 net335 vdd! vdd!)  pfet  L=0.30E-6 W=3.38E-6
T88 ( net177 net335 vdd! vdd!)  pfet  L=0.30E-6 W=3.38E-6
R89 ( net177 net185)  R=0.9E2
C90 (net31 net290) C=8.1E-13
R91 ( net308 net132)  R=4.0E0
T92 ( net132 net217 0 0)  nfet  L=4.30E-6 W=4.39E-6
T93 ( net162 net217 0 0)  nfet  L=4.30E-6 W=4.39E-6
T94 ( net252 net132 net162 0)  nfet  L=4.30E-6 W=4.39E-6
T95 (net282 net326 net326 0) pfet L=4.38E-6 W=5.48E-6
T96 (vdd! net261 net261 0) pfet L=0.93E-6 W=8.08E-6
R97 ( net326 net273)  R=3.1E0
T98 ( net273 net273 net13 0)  nfet  L=7.36E-6 W=9.81E-6
T99 ( net13 net290 0 0)  nfet  L=7.36E-6 W=9.81E-6
T100 ( net290 net290 0 0)  nfet  L=7.36E-6 W=9.81E-6
T101 ( net176 net273 net290 0)  nfet  L=7.36E-6 W=9.81E-6
T102 (net136 net188 net188 0) pfet L=9.06E-6 W=5.74E-6
R103 ( net309 net168)  R=6.0E1
T104 ( net168 net168 net317 0)  nfet  L=6.02E-6 W=4.79E-6
T105 ( net317 net160 0 0)  nfet  L=6.02E-6 W=4.79E-6
T106 ( net160 net160 0 0)  nfet  L=6.02E-6 W=4.79E-6
T107 ( net237 net168 net160 0)  nfet  L=6.02E-6 W=4.79E-6
R108 (net214 net335) R=5.0E1
R109 ( net362 net92)  R=2.1E6
T110 ( net92 net92 vdd! vdd!)  pfet  L=2.23E-6 W=9.32E-6
T111 ( net255 net92 vdd! vdd!)  pfet  L=2.23E-6 W=9.32E-6
R112 (net34 net361) R=1.2E0
T113 (net196 net82 net82 0) pfet L=0.61E-6 W=3.40E-6
T114 (0 net241 net241 0) nfet L=9.14E-6 W=9.61E-6
R115 ( net309 net327)  R=1.5E3
T116 ( net327 net327 net118 vdd!)  pfet  L=6.67E-6 W=9.04E-6
T117 ( net118 net90 vdd! vdd!)  pfet  L=6.67E-6 W=9.04E-6
T118 ( net90 net90 vdd! vdd!)  pfet  L=6.67E-6 W=9.04E-6
T119 ( net75 net327 net90 vdd!)  pfet  L=6.67E-6 W=9.04E-6
T120 (net269 net100 net100 0) pfet L=3.59E-6 W=0.89E-6
R121 ( 0 net329)  R=0.9E2
T122 ( net329 net329 net221 0)  nfet  L=5.86E-6 W=2.77E-6
T123 ( net221 net124 0 0)  nfet  L=5.86E-6 W=2.77E-6
T124 ( net124 net124 0 0)  nfet  L=5.86E-6 W=2.77E-6
T125 ( net198 net329 net124 0)  nfet  L=5.86E-6 W=2.77E-6
T126 (net200 net259 net259 0) pfet L=3.93E-6 W=2.68E-6
R127 ( net41 net247)  R=6.9E4
T128 ( net247 net247 vdd! vdd!)  pfet  L=0.38E-6 W=0.19E-6
T129 ( net159 net247 vdd! vdd!)  pfet  L=0.38E-6 W=0.19E-6
T130 (net245 net146 net146 0) pfet L=7.98E-6 W=2.10E-6
T131 ( net322 net322 0 0)  nfet  L=0.98E-6 W=3.94E-6
T132 ( net97 net322 0 0)  nfet  L=0.98E-6 W=3.94E-6
R133 ( net97 net245)  R=2.5E0
C134 (net175 net173) C=2.0E-14
R135 ( net54 net51)  R=3.6E2
T136 ( net51 net51 net12 vdd!)  pfet  L=7.06E-6 W=2.49E-6
T137 ( net12 net336 vdd! vdd!)  pfet  L=7.06E-6 W=2.49E-6
T138 ( net336 net336 vdd! vdd!)  pfet  L=7.06E-6 W=2.49E-6
T139 ( net250 net51 net336 vdd!)  pfet  L=7.06E-6 W=2.49E-6
T140 (0 net190 net190 0) pfet L=9.58E-6 W=9.21E-6
R141 ( net252 net192)  R=1.3E0
T142 ( net192 net62 vdd! vdd!)  pfet  L=7.55E-6 W=8.64E-6
T143 ( net340 net62 vdd! vdd!)  pfet  L=7.55E-6 W=8.64E-6
T144 ( net39 net192 net340 vdd!)  pfet  L=7.55E-6 W=8.64E-6
T145 (net77 net33 net33 0) pfet L=0.22E-6 W=2.95E-6
T146 (net207 net21 net21 0) nfet L=8.12E-6 W=9.66E-6
T147 (net219 net198 net198 0) pfet L=9.54E-6 W=7.22E-6
C148 (net127 net107) C=0.2E-13
T149 ( net164 net164 vdd! vdd!)  pfet  L=1.21E-6 W=2.31E-6
T150 ( net108 net164 vdd! vdd!)  pfet  L=1.21E-6 W=2.31E-6
R151 ( net108 net148)  R=5.5E0
T152 (net326 net60 net60 0) nfet L=4.17E-6 W=9.51E-6

