R1 ( net180 net238)  R=7.7E6
T2 ( net238 net238 net32 0)  nfet  L=1.04E-6 W=4.48E-6
T3 ( net32 net71 0 0)  nfet  L=1.04E-6 W=4.48E-6
T4 ( net71 net71 0 0)  nfet  L=1.04E-6 W=4.48E-6
T5 ( net243 net238 net71 0)  nfet  L=1.04E-6 W=4.48E-6
T6 (net147 net223 net223 0) pfet L=8.02E-6 W=1.33E-6
R7 ( net129 net3)  R=7.6E4
T8 ( net3 net174 vdd! vdd!)  pfet  L=5.51E-6 W=1.76E-6
T9 ( net119 net174 vdd! vdd!)  pfet  L=5.51E-6 W=1.76E-6
T10 ( 0 net3 net174 vdd!)  pfet  L=5.51E-6 W=1.76E-6
T11 (net107 net159 net159 0) nfet L=7.50E-6 W=6.51E-6
R12 ( net65 net53)  R=2.4E0
T13 ( net53 net89 0 0)  nfet  L=4.09E-6 W=2.24E-6
T14 ( net240 net89 0 0)  nfet  L=4.09E-6 W=2.24E-6
T15 ( vdd! net53 net89 0)  nfet  L=4.09E-6 W=2.24E-6
T16 (net219 net120 net120 0) pfet L=1.66E-6 W=1.45E-6
T17 (net55 net47 net47 0) nfet L=3.52E-6 W=1.69E-6
R18 ( 0 net21)  R=7.9E2
T19 ( net21 net142 vdd! vdd!)  pfet  L=4.10E-6 W=4.88E-6
T20 ( net131 net142 vdd! vdd!)  pfet  L=4.10E-6 W=4.88E-6
T21 ( 0 net21 net142 vdd!)  pfet  L=4.10E-6 W=4.88E-6
T22 (net106 net203 net203 0) pfet L=3.91E-6 W=2.10E-6
T23 (net223 net5 net5 0) nfet L=3.07E-6 W=6.03E-6
T24 (net102 net128 net128 0) nfet L=9.11E-6 W=6.23E-6
R25 ( net29 net206)  R=8.8E2
T26 ( net206 net183 vdd! vdd!)  pfet  L=0.94E-6 W=5.91E-6
T27 ( vdd! net183 vdd! vdd!)  pfet  L=0.94E-6 W=5.91E-6
T28 ( 0 net206 net183 vdd!)  pfet  L=0.94E-6 W=5.91E-6
T29 (net42 vdd! vdd! 0) nfet L=2.42E-6 W=1.81E-6

